US04489094
4-[[3,3-Bis(p-chlorophenyl)allyl]amino]benzoic acid
A suspension of 1.3 g. of p-[[3,3-bis(p-chlorophenyl)allyl]amino]benzoic acid, ethyl ester, 40 ml. of ethanol, and 4.6 ml. of 1N sodium hydroxide is heated at reflux for 28 hours, cooled, and then diluted with an equal volume of water. A 0.26 ml. portion of glacial acetic acid is added, and the mixture is cooled in ice. The solid is collected, washed with water, and recrystallized from absolute ethanol, giving 600 mg. of the desired product, m.p. 231°-235° C.

reactant | p-[[3,3-bis(p-chlorophenyl)allyl]amino]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)C(=CCNC1=CC=C(C(=O)OCC)C=C1)C1=CC=C(C=C1)Cl | C24H21Cl2NO2
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-[[3,3-Bis(p-chlorophenyl)allyl]amino]benzoic acid | ClC1=CC=C(C=C1)C(=CCNC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)Cl | C22H17Cl2NO2
